US06660744B1
Sodium triacetoxyborohydride (67 mg, 0.319 mmol) was added to a mixture of 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]benzaldehyde (100 mg, 0.245 mmol), 4-methylpiperazine (37 mg, 0.369 mmol), glacial acetic acid (35 mg, 0.589 mmol) in dichloroethane (4 mL). After stirring at room temperature over night, more sodium triacetoxyborohydride (67 mg, 0.319 mmol) was added and the reaction mixture was stirred over night. Water (2 mL) was added and followed by sodium bicarbonate (250 mg). After stirring vigorously for 1 hour, the layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichlromethane/methanol (97:3 to 80:20) as mobile phase to give 1-{4-[(4-methylpiperazino)methyl]phenyl}-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (25 mg, 21%). 1H NMR (DMSO-d6) δ 2.30 (s, 3H), 2.48 (bm, 8H), 3.56 (s, 3H), 5.75 (bs, 2H), 7.11 (d, J=8.50, 2H), 7.18 (m, 3H), 7.40 (m, 2H), 7.48 (d, J=8.50 Hz, 2H), 7.29 (d, J=8.63 Hz, 2H), 8.12 (d, J=8.50 Hz, 2H), 8.47 (s, 1H). LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 0.8 mL/min.): MH+ =492.2, Rt=2.97 min.

reactant | Sodium triacetoxyborohydride | 0.319 mmol, 67 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]benzaldehyde | 0.245 mmol, 100 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C24H17N5O2
reactant | 4-methylpiperazine | 0.369 mmol, 37 mg | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 0.589 mmol, 35 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.319 mmol, 67 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 250 mg | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
solvent | Water | 2 mL | O | H2O
product | 1-{4-[(4-methylpiperazino)methyl]phenyl}-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 25 mg, 21% | CN1CCN(CC1)CC1=CC=C(C=C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C29H29N7O
